US07858796B2
(271) 5-phenyl-3-{1-[(5-{[(phenylmethyl)amino]methyl}-2-thienyl)sulfonyl]-4-piperidinyl}-1H-indole-7-carboxamide
Following the general procedure in example 267, 5-(phenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide (32 mg, 0.1 mmol), 5-{[(phenylmethyl)amino]methyl}-2-thiophenesulfonyl chloride (45.3 mg, 0.15 mmol) and triethylamine (0.06 mL, 0.3 mmol) were reacted to form the desired product which was purified by Gilson HPLC (CH3CN/Water, 0.1% TFA) (20 mg, 34%).

reactant | 5-(phenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.1 mmol, 32 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | 5-{[(phenylmethyl)amino]methyl}-2-thiophenesulfonyl chloride | 0.15 mmol, 45.3 mg | C1(=CC=CC=C1)CNCC1=CC=C(S1)S(=O)(=O)Cl | C12H12ClNO2S2
reactant | TEA | 0.3 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
product | 5-phenyl-3-{1-[(5-{[(phenylmethyl)amino]methyl}-2-thienyl)sulfonyl]-4-piperidinyl}-1H-indole-7-carboxamide | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)C=1SC(=CC1)CNCC1=CC=CC=C1 | C32H32N4O3S2
